US05719141
i) 3-Tert-butoxycarbonyl-2,2-dimethyl-4(S)-[1-(2-benzyloxyethyl)cyclopropylmethyl]-1,3-oxazolidine
15.1 g of 3-tert-butoxycarbonyl-2,2-dimethyl-4(S)-[1-(2-hydroxyethyl)cyclopropylmethyl]-1,3-oxazolidine are dissolved in 50 ml of tetrahydrofuran, and 14.2 g of a potassium hydride suspension (20% in oil) are added at 0° C. The mixture is stirred at 0° C. for 1 h and 6.3 ml of benzyl bromide are then added dropwise, while stirring. After 90 min., 100 ml of water are slowly added to the reaction mixture and the aqueous phase is extracted with diethyl ether. This gives the title compound: Rf (A)=0.8; FAB-MS: (M+H)+ =390.

reactant | 3-tert-butoxycarbonyl-2,2-dimethyl-4(S)-[1-(2-hydroxyethyl)cyclopropylmethyl]-1,3-oxazolidine | 15.1 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1(CC1)CCO)(C)C | C16H29NO4
reactant | potassium hydride | 14.2 g | [H-].[K+]
reactant | benzyl bromide | 6.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-Tert-butoxycarbonyl-2,2-dimethyl-4(S)-[1-(2-benzyloxyethyl)cyclopropylmethyl]-1,3-oxazolidine | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1(CC1)CCOCC1=CC=CC=C1)(C)C | C23H35NO4
